US06008231
N-(Pyridin-4-yl)-(indol-3-yl)glyoxylamide
A solution of 10 g (85.3 mmol) of indole in 100 ml of ether is added dropwise at 0° C. to a solution of 9 ml of oxalyl chloride in 100 ml of anhydrous ether. The mixture is kept under reflux for 3 hours. A suspension of 12 g (127.9 mmol) of 4-aminopyridine in 500 ml of tetrahydrofuran is then added dropwise at -5° C., and the reaction mixture is heated to reflux temperature with stirring for 3 hours and allowed to stand overnight at room temperature. The precipitate is filtered and treated with water and the dried compound is purified on a silica gel column (silica gel 60, Merck AG, Darmstadt) using the eluent methylene chloride/ethanol (10:1, v/v).

reactant | indole | 85.3 mmol, 10 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | oxalyl chloride | 9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-aminopyridine | 127.9 mmol, 12 g | NC1=CC=NC=C1 | C5H6N2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | N-(Pyridin-4-yl)-(indol-3-yl)glyoxylamide | N1=CC=C(C=C1)NC(C(=O)C1=CNC2=CC=CC=C12)=O | C15H11N3O2
